US07354932B2
Preparation of (4-morpholin-4-yl-cyclohexylamine)-carbamic acid tert-butyl ester
To a solution of (4-oxo-cyclohexyl)-carbamic acid tert-butyl ester (426 mg, 2.00 mmol) and morpholine (175 μL, 2.00 mmol) in CH2Cl2 (25 mL) and acetic acid (120 μL) was added sodium triacetoxyborohydride (636 mg, 3.00 mmol) and the mixture was stirred at room temperature overnight. The mixture was concentrated under reduced pressure and diluted with saturated aqueous sodium carbonate (30 mL). The aqueous layer was washed with CH2Cl2 (4×20 mL), and the combined organic extracts were dried (MgSO4), filtered, and concentrated under reduced pressure. Purification by flash column chromatography on silica gel (MeOH/CH2Cl2, 1:9) afforded the title compound as a white solid (76.2 mg, 13%). 1H NMR (CDCl3) δ 1.04-1.17 (m, 6H), 1.25-1.38 (m, 4H), 1.44 (s, 9H), 1.93 (d, 2H, J=12.0 Hz), 2.07 (d, 2H, J=12.0 Hz), 2.12-2.17 (m, 2H), 3.25-3.36 (br m, 1H), 4.35 (br m, 1H), 4.81 (br d, 1H).

reactant | (4-oxo-cyclohexyl)-carbamic acid tert-butyl ester | 2.00 mmol, 426 mg | C(C)(C)(C)OC(NC1CCC(CC1)=O)=O | C11H19NO3
reactant | morpholine | 2.00 mmol, 175 μL | N1CCOCC1 | C4H9NO
reactant | sodium triacetoxyborohydride | 3.00 mmol, 636 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 120 μL | C(C)(=O)O | C2H4O2
product | (4-morpholin-4-yl-cyclohexylamine)-carbamic acid tert-butyl ester | 76.2 mg, 13% | C(C)(C)(C)OC(N)=O.N1(CCOCC1)C1CCC(CC1)N | InChI=1S/C10H20N2O.C5H11NO2/c11-9-1-3-10(4-2-9)12-5-7-13-8-6-12;1-5(2,3)8-4(6)7/h9-10H,1-8,11H2;1-3H3,(H2,6,7)
